Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
epigastric pain x1 day
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of htn, GERD, HLD presenting with intermittent 
epigastric pain x1 day.

Pt describes onset of epigastric pain at 1 am of ___, was 
already awake, ___, sharp and dull at the same time, radiating 
to his back. He lay down, and pain began to release. In the am 
he woke at 8 am, and noted residual pain, nonpositional, ___. 
He did not take anything for the pain, denies N/V, diarrhea, 
constipation, fevers, chills. He presented to ED for further 
evaluation. While in the ED, he experienced recurrent pain. Pain 
is now ___. He endorses chest pain, which he describes as an 
extension of his epigastric pain. Chest discomfort was 
nonradiating, nonexertional, without associated nausea or 
diaphoresis. 

He denies taking any over the counter medications, supplements, 
herbal or otherwise. He takes advil for headache, which most 
commonly occurs when he drinks EtOH. He never takes Tylenol, 
because he is under the impression that only advil helps. He has 
no history of IVDA, and reports that he is sexually active with 
his wife only.

Per OMR, he was evaluated on ___ with complaints of 
epigastric pain and dysphagia x3 days. Barium esophagram on 
___ was unremarkable. Pt notes that this pain is different 
in both quality and intensity from his prior episodes of GERD.

In the ___ ED:
VS 97.3, 79, 144/107, 98% RA
Labs notable for CBC and chem 7 WNL, ALT/AST 417/298, alk phos 
78, Tbili 0.8, lipase 27
RUQ u/s with gallstones without evidence of acute cholecystitis
Received GI cocktail, donnatal, lidocaine viscous

Hepatology consulted, recommended MRCP, hepatitis serologies, 
___, AMA, ___, immunoglobulins, trend LFTs, consider inpatient 
hepatology consult if w/u unrevealing
 
Past Medical History:
Hypertension
Hyperlipidemia
GERD
 
Social History:
___
Family History:
His mother with thyroid cancer, maternal grandfather with 
diabetes, maternal grandmother with stroke, paternal grandfather 
with a stroke.
 
Physical Exam:
Exam on admission:
VSS
Gen: Very pleasant overweight gentleman, lying comfortably in 
bed, in NAD
HEENT: PERRL, EOMI, clear oropharynx, MMM, anicteric sclera
Neck: supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, nondistended, trace TTP at epigastrium, no rebound or 
guarding, negative ___ sign, liver edge palpated just 
beneath costal margin, +BS
GU: No foley
Ext: WWP, no c/c/e
Neuro: grossly intact

Exam at discharge:
Vitals: AVSS
Gen: NAD, lying in bed
Eyes: EOMI, sclerae anicteric  
ENT: MMM, OP clear
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect. Very pleasant.
GU: Foley
 
Pertinent Results:
Labs on admission
___ 07:33PM   ___ PTT-33.4 ___
___ 03:10PM   GLUCOSE-86 UREA N-13 CREAT-0.9 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-26 ANION GAP-16
___ 03:10PM   estGFR-Using this
___ 03:10PM   ALT(SGPT)-417* AST(SGOT)-298* ALK PHOS-78 TOT 
BILI-0.8
___ 03:10PM   LIPASE-27
___ 03:10PM   ALBUMIN-4.9 CALCIUM-9.9 PHOSPHATE-3.5 
MAGNESIUM-2.1
___ 03:10PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 03:10PM   WBC-8.0 RBC-5.52 HGB-15.1 HCT-45.5 MCV-82 
MCH-27.4 MCHC-33.2 RDW-13.7 RDWSD-40.6
___ 03:10PM   NEUTS-64.1 ___ MONOS-6.8 EOS-0.6* 
BASOS-0.1 IM ___ AbsNeut-5.15 AbsLymp-2.25 AbsMono-0.55 
AbsEos-0.05 AbsBaso-0.01
___ 03:10PM   PLT COUNT-308

RUQUS: Gallstones without evidence for acute cholecystitis. 

MRCP:
1.  Cholelithiasis without evidence of cholecystitis. 
2.  Normal appearance of the biliary tree; specifically, no 
evidence of 
choledocholithiasis. 
3.  Normal appearance of the liver.  No focal lesions. 

Discharge/other significant labs:
CBC stable
BMP stable
LFT downtrending
Hep virology negative, non immune
AMA, ___ negative
 
Brief Hospital Course:
This is a ___ with HTN, HL, GERD, presenting with acute 
abdominal pain, since resolved, elevated LFTs which are now 
downtrending quite quickly, and cholelithiasis by ultrasound. 
Pattern of symptoms and LFT abnormalities consistent with 
gallstone disease, and antecedent symptoms are quite consistent 
with biliary colic. Surgery recommended outpatient CCY as below.

# Cholelithiasis with likely
# Transient choledocholithiasis with obstruction now passed
causing
# Abdominal pain and elevated LFT: While pattern was 
hepatocellular this can be seen with transiting gallstones 
stones. Pattern/timing of rise/fall inconsistent with most other 
causes of transaminitis/pain. Hepatitis workup negative, as 
above. MRCP confirmed gallstones with sludge, but no 
choledocholithiasis. He was seen by ACS for cholecystectomy as 
inpatient given symptomatic gallstones but preferred to follow 
up outpatient.
- F/u with ACS for CCY as outpatient ASAP
- Low fat diet meantime

# HBV non-immune:
- Can consider vaccination though not absolutely required per 
guidelines

# GERD: It was thought that his symptoms were more likely due to 
gallstone disease. He was told that he could continue OTC 
antacid or PPI as needed. H pylori stool Ag was ordered by 
admitting MD but never obtained. If problems persist after CCY, 
this could be considered.

Dispo: >30 minutes spent coordinating discharge to home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1. Lisinopril 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gallstones

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain and elevated liver 
function tests (also known as transaminases). Your pain 
resolved, and your tests improved tremendously. You had an 
ultrasound and an MRI study that showed gallstones. It appears 
your symptoms are being caused by gallstones, and that you may 
have passed some sludge through your bile ducts causing the 
liver function test abnormalities. You need to have surgery to 
get your gallbladder removed. You preferred to do this as an 
outpatient.
 
Followup Instructions:
___